US04476132
6.1 g of 6-butyryl-7,8-dimethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid methyl ester are heated under reflux for 4 hours together with 3.66 g of potassium hydroxide, 1.46 ml of water and 64.4 ml of methanol. The reaction mixture is concentrated to dryness by evaporation, partitioned between ethyl acetate and water, the aqueous phases are acidified and the precipitated crystals are filtered with suction and washed with water. The 6-butyryl-7,8-dimethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid obtained in this manner melts at 267°-269° after recrystallisation from methanol/ethanol.

reactant | 6-butyryl-7,8-dimethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid methyl ester | 6.1 g | COC(=O)C=1NC2=C(C(=C(C=C2C(C1)=O)C(CCC)=O)C)C | C17H19NO4
reactant | potassium hydroxide | 3.66 g | [OH-].[K+]
reactant | water | 1.46 ml | O | H2O
solvent | methanol | 64.4 ml | CO | CH4O
product | 6-butyryl-7,8-dimethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | C(CCC)(=O)C=1C=C2C(C=C(NC2=C(C1C)C)C(=O)O)=O | C16H17NO4
